### PR TITLE
[Merged by Bors] - Feat : Define the Poisson distribution

### PR DESCRIPTION
**Pull request by JADekker**
Add the Poisson probability distribution for non-negative rate `r`
- PMF
- Measure
- Basic API 
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by sgouezel — COMMENTED** [review]
@RemyDegenne, the PR uses a non-negative real as the rate to a Poisson distribution, just like you did for the variance of the Gaussian. For the Gaussian, one can argue it makes sense as all nonnegative variances are allowed, but here since one needs anyway a side condition that the rate is positive, I would probably just use a real number to make things simpler. What do you think?

**Comment by JADekker** [comment]
@sgouezel I agree that a positive parameter is easier. I wrote this to allow people to take limits where the rate goes to 0; a similar case was suggested to me for the Gamma/Exponential distribution. I’m happy to change this though if Remy agrees! I just went for generality of results here

**Comment by sgouezel** [comment]
I am not sure my comment was clear: I am not suggesting to take the rate in the type of strictly positive reals, I am suggesting to take the rate to be an arbitrary real number, because real numbers are just easier to manipulate than nonnegative real numbers.

**Comment by JADekker** [comment]
> I am not sure my comment was clear: I am not suggesting to take the rate in the type of strictly positive reals, I am suggesting to take the rate to be an arbitrary real number, because real numbers are just easier to manipulate than nonnegative real numbers (but for a nonpositive number the Poisson measure would just be defined to be the Dirac mass at 0).

My bad, I mistakenly read ‘positive’ instead of ‘real’ for some reason. I agree that it would make things easier, although I’m not sure how well adding up independent Poisson distributions will go if negative rates are mapped to the Dirac measure, but we could require nonnegative real rates there I guess. (I’m planning to add some more basic API later). Also, the expressions for the characteristic functions would become more cumbersome for a real parameter, as we then need to pass to cases there.

File: Mathlib/Probability/Distributions/Poisson.lean [hunk 1]
```diff
@@ -0,0 +1,88 @@
...
+/-- The Poisson pmf is measurable. -/
+lemma measurable_poissonPmfReal (r : ℝ≥0) : Measurable (poissonPmfReal r) := by measurability
+
+lemma stronglyMeasurable_poissonPmfReal (r : ℝ≥0) : StronglyMeasurable (poissonPmfReal r) :=
+  stronglyMeasurable_iff_measurable.mpr (measurable_poissonPmfReal r)
+
+/-- Measure defined by the Poisson distribution -/
+noncomputable
+def poissonMeasure (r : ℝ≥0) : Measure ℕ :=
+  if r > 0 then (poissonPmf r).toMeasure else Measure.dirac 0
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Poisson.lean:74]: For `r = 0`, isn't `(poissonPmf 0).toMeasure` already equal to the dirac at 0? If so, you can just remove the `if`.

**Comment by sgouezel** [comment]
Yes, all the relevant lemmas would require an assumption `0 ≤ r`. In fact I'm not sure anymore this is a good idea, probably the same rationale as for the gaussian applies. Let's see what @RemyDegenne thinks.

File: Mathlib/Probability/Distributions/Poisson.lean (hunk 1 above)
Comment (JADekker) [reply Mathlib/Probability/Distributions/Poisson.lean:74]: I think you are right yes! For a continuous distribution, things are a bit more subtle, but here it is fine indeed! I’ll change that after I know how we will deal with the non-negativity of the parameter

**Comment by RemyDegenne** [comment]
I am not sure that changing to a real rate instead of NNReal is a good idea. It would add a lot of nonnegativity assumptions, while now there are almost none (especially since the `if` in the measure definition is not needed).

File: Mathlib/Probability/Distributions/Poisson.lean [hunk 2]
```diff
@@ -0,0 +1,88 @@
...
+
+lemma poissonMeasure_of_rate_ne_zero {r : ℝ≥0} (hr : r > 0) :
+    poissonMeasure r = (poissonPmf r).toMeasure := if_pos hr
+
+lemma poissonMeasure_of_rate_zero :
+    poissonMeasure 0 = Measure.dirac 0 := if_neg not_lt_zero'
+
+lemma isProbabilityMeasurePoisson (r : ℝ≥0) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Poisson.lean:82]:
```suggestion
instance isProbabilityMeasurePoisson (r : ℝ≥0) :
```

**Comment by JADekker** [comment]
I've incorporated the feedback and am lifting relevant feedback to #9561 as well, so once this one merges, I think that one should be relatively easy!

File: Mathlib/Probability/Distributions/Poisson.lean [hunk 3]
```diff
@@ -0,0 +1,79 @@
...
+* `poissonMeasure`: a Poisson measure on `ℕ`, parametrized by its rate `λ`.
+-/
+
+open scoped ENNReal NNReal
+
+open MeasureTheory Real Set Filter Topology
+
+namespace ProbabilityTheory
+
+section PoissonPmf
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Poisson.lean:30]: Can you close the section somewhere sensible, like before the definition of the measure, and close the namespace at the end of the file?

File: Mathlib/Probability/Distributions/Poisson.lean [hunk 4]
```diff
@@ -0,0 +1,79 @@
...
+lemma stronglyMeasurable_poissonPmfReal (r : ℝ≥0) : StronglyMeasurable (poissonPmfReal r) :=
+  stronglyMeasurable_iff_measurable.mpr (measurable_poissonPmfReal r)
+
+/-- Measure defined by the Poisson distribution -/
+noncomputable
+def poissonMeasure (r : ℝ≥0) : Measure ℕ := (poissonPmf r).toMeasure
+
+instance isProbabilityMeasurePoisson (r : ℝ≥0) :
+    IsProbabilityMeasure (poissonMeasure r) := by
+  exact PMF.toMeasure.isProbabilityMeasure (poissonPmf r)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Poisson.lean:79]:
```suggestion
    IsProbabilityMeasure (poissonMeasure r) :=
  PMF.toMeasure.isProbabilityMeasure (poissonPmf r)
```

Comment (RemyDegenne) [reply Mathlib/Probability/Distributions/Poisson.lean:79]: Is that instance actually necessary? `PMF.toMeasure.isProbabilityMeasure` is also an instance. Could you try to prove `IsProbabilityMeasure (poissonMeasure r)` by `inferInstance` (or the tactic `infer_instance`) and see if that works?
If it works, you can remove `isProbabilityMeasurePoisson`.

Comment (JADekker) [reply Mathlib/Probability/Distributions/Poisson.lean:79]: I just tried that, it doesn't synthesize the instance. However, when I'm using `rw [poissonMeasure]` followed by `infer_instance` it does do the trick, so perhaps there is something like a `@[...]` or something that would allow `inferInstance` to peak under the hood of `def poissonMeasure` so it can draw this conclusion on its own?

Comment (JADekker) [reply Mathlib/Probability/Distributions/Poisson.lean]: I just made a new commit, all other points have been incorporated!

Comment (RemyDegenne) [reply Mathlib/Probability/Distributions/Poisson.lean]: Thanks for checking. I was unsure about whether the typeclass inference system could see through `poissonMeasure` or not. Since it cannot, let's keep the new instance.

**Comment by RemyDegenne** [comment]
Thanks!
bors d+

**Comment by JADekker** [comment]
Excellent, thank you @RemyDegenne! I'll tell bors to merge once the build is complete! 

 If you don't mind me asking, could you take a look at #9561, which defines the geometric distribution? I have incorporated all feedback from here there as well, but I'm not sure about how to require the probability to lie in `(0,1]`, do you think the way I do it now is correct?
